### ISSUE TITLE
fun_prop を紹介する

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/tactic-cheatsheet#71]
https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/.60fun_prop.60.20new.20tactic.20for.20Differentiable.2C.20Continuous.2C.20.2E.2E.2E

```lean
import Mathlib.Tactic

variable {u v : ℝ → ℝ} (hu : Continuous u) (hv : Continuous v)

/-- 連続関数の積は連続関数 -/
example : Continuous (fun x ↦ u x * v x) := by 
  fun_prop

/-- 有理関数が可測関数であることを示す -/
example : Measurable fun x : ℝ => (x * x - 1) / x + (x - x * x) := by
  fun_prop
```
